US06043248
4-Chlorocrotonyl chloride (1.36 g, 9.80 mmol) in ether (20 ml) is combined with diethylamine in ether (5 ml) at -15° C. in a flame dried flask. The reaction is warmed to ambient temperature, stirred for 1 to 2 hours, quenched with water (30 ml), extracted with ethyl acetate (2×30 ml), washed with saline (30 ml), dried over sodium sulfate, and concentrated in vacuo to yield the crude 4-chloro-N,N-diethylcrotonamide.

reactant | 4-Chlorocrotonyl chloride | 9.80 mmol, 1.36 g | ClC/C=C/C(=O)Cl | C4H4Cl2O
reactant | diethylamine | C(C)NCC | C4H11N
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-chloro-N,N-diethylcrotonamide | ClC/C=C/C(=O)N(CC)CC | C8H14ClNO
